US08871782B2
Isobutyryl chloride (0.273 mL, 2.61 mmol) was added dropwise to a stirred solution of 2-(2-methoxyethyl)-7-(piperidin-4-yloxy)-1-propyl-1H-imidazo[4,5-c]quinolin-4-ylamine (prepared as described in Part A of Example 388, 1.00 g, 2.61 mmol) in chloroform at 0° C. After 2 hours, the solution was allowed to warm to ambient temperature for 1 hour. Saturated aqueous sodium carbonate (15 mL) and water (10 mL) were added and the mixture was allowed to stir for 16 hours. The mixture was transferred to a separatory funnel, the layers were separated, and the aqueous layer was extracted with dichloromethane (2×30 mL). The organic layers were combined, washed with water and saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. Recrystallization from acetonitrile afforded 1.00 g of 7-[(1-isobutyrylpiperidin-4-yl)oxy]-2-(2-methoxyethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-4-amine as a flocculent white solid, mp 165-166° C.

reactant | Isobutyryl chloride | 2.61 mmol, 0.273 mL | C(C(C)C)(=O)Cl | C4H7ClO
reactant | 2-(2-methoxyethyl)-7-(piperidin-4-yloxy)-1-propyl-1H-imidazo[4,5-c]quinolin-4-ylamine | COCCC=1N(C2=C(C(=NC=3C=C(C=CC23)OC2CCNCC2)N)N1)CCC | C21H29N5O2
reactant | sodium carbonate | 15 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 10 mL | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 7-[(1-isobutyrylpiperidin-4-yl)oxy]-2-(2-methoxyethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-4-amine | 1.00 g | C(C(C)C)(=O)N1CCC(CC1)OC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3CCC)CCOC | C25H35N5O3
